US04764522
In analogous manner, from 3.3 g of 4-chloro-5-methoxy-2-pyridinecarboxylic acid there was obtained t-butyl [2-(4-chloro-5-methoxypyridine-2-carboxamido)ethyl]carbamate as pale yellow crystals (ethyl acetate/n-hexane), m.p. 132°-133°, which, in turn, was converted into N-(2-aminoethyl)-4-chloro-5-methoxypyridine-2-carboxamide hydrochloride, white crystals (methanol/ether), m.p. 256°-257°.

reactant | t-butyl [2-(4-chloro-5-methoxypyridine-2-carboxamido)ethyl]carbamate | ClC1=CC(=NC=C1OC)C(=O)NCCNC(OC(C)(C)C)=O | C14H20ClN3O4
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | 4-chloro-5-methoxy-2-pyridinecarboxylic acid | 3.3 g | ClC1=CC(=NC=C1OC)C(=O)O | C7H6ClNO3
